US08217042B2
Preparation of 1-[3-((E)-2-cyclohexylvinyl)pyrido[2,3-b]pyrazin-6-yl]-3-ethylurea (reaction according to scheme 6)
99.6 mg of 1-(3-chloropyrido[2,3-b]pyrazin-6-yl)-3-ethylurea (0.40 mmol), 73.6 mg of cyclohexylvinylboronic acid (0.48 mmol), 84.4 mg of sodium carbonate (0.80 mmol) and 33.4 mg of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.04 mmol) were initially charged in 6 ml of dimethylformamide/water (1:1) under nitrogen. The mixture was then heated to 90° C. for 6.5 h. Distilled water was then added to the reaction mixture and the resulting precipitate was filtered off with suction. The further purification was effected by column chromatography on silica gel (ethyl acetate/heptane eluent mixture). A light brown solid was obtained.

reactant | 1-(3-chloropyrido[2,3-b]pyrazin-6-yl)-3-ethylurea | 0.40 mmol, 99.6 mg | ClC1=CN=C2C(=N1)N=C(C=C2)NC(=O)NCC | C10H10ClN5O
reactant | cyclohexylvinylboronic acid | 0.48 mmol, 73.6 mg | C1(CCCCC1)C=CB(O)O | C8H15BO2
reactant | sodium carbonate | 0.80 mmol, 84.4 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide water | 6 ml | CN(C=O)C.O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.04 mmol, 33.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-[3-((E)-2-cyclohexylvinyl)pyrido[2,3-b]pyrazin-6-yl]-3-ethylurea | C1(CCCCC1)/C=C/C1=CN=C2C(=N1)N=C(C=C2)NC(=O)NCC | C18H23N5O
